US04082843
3-(3-Hydroxy-4-nitrobenzoyl)propionic acid was cyclised with an equimolar amount of hydrazine hydrate in a similar manner to that described in Example 3(i) to give 6-(3-hydroxy-4-nitrophenyl)-4,5-dihydro-3(2H)-pyridazinone.

reactant | 3-(3-Hydroxy-4-nitrobenzoyl)propionic acid | OC=1C=C(C(=O)CCC(=O)O)C=CC1[N+](=O)[O-] | C10H9NO6
reactant | hydrazine hydrate | O.NN
product | 6-(3-hydroxy-4-nitrophenyl)-4,5-dihydro-3(2H)-pyridazinone | OC=1C=C(C=CC1[N+](=O)[O-])C=1CCC(NN1)=O | C10H9N3O4
